US08735384B2
A vial was charged with copper(I) iodide (38.5 mg, 0.202 mmol), 1,10-phenanthroline (72.8 mg, 0.404 mmol), cesium carbonate (1.32 g, 4.04 mmol), 2-bromo-1-iodo-3-methylbenzene (600 mg, 2.021 mmol) and tetrahydrofuran-3-ol (1.80 mL, 22.23 mmol). The vial was sealed and the reaction mixture was heated to 120° C. for 24 h. The reaction mixture was cooled to RT, EtOAc was added and the mixture was filtered through a pad of silica gel. The solvent was removed under reduced pressure and the remaining residue was purified by flash chromatography (25% EtOAc/hexanes). 3-(2-Bromo-3-methylphenoxy)tetrahydrofuran was isolated as a light-yellow oil (178 mg).

reactant | 1,10-phenanthroline | 0.404 mmol, 72.8 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 4.04 mmol, 1.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-iodo-3-methylbenzene | 2.021 mmol, 600 mg | BrC1=C(C=CC=C1C)I | C7H6BrI
reactant | tetrahydrofuran-3-ol | 22.23 mmol, 1.80 mL | O1CC(CC1)O | C4H8O2
catalyst | copper(I) iodide | 0.202 mmol, 38.5 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-Bromo-3-methylphenoxy)tetrahydrofuran | BrC1=C(OC2COCC2)C=CC=C1C | C11H13BrO2
